US05225559
In 50 ml of acetic acid was dissolved 2.98 g (10.67 mmol) of 6-methoxy-2-methoxycarbonyl-8-nitrochromone, and the mixture was stirred at room temperature for 1.5 hour in the presence of 1.0 g of 5% palladium carbon while bubbling hydrogen gas thereinto. After completion of the reaction, the inorganic substance was filtered off, and the filtrate was concentrated under reduced pressure. The residue was dissolved in 100 ml of chloroform, and washed with an aqueous saturated sodium hydrogen carbonate solution. The organic layer was concentrated under reduced pressure to obtain 2.31 g (yield: 87%) of 8-amino-6-methoxy-2-methoxycarbonylchromone as brown crystals.

reactant | 6-methoxy-2-methoxycarbonyl-8-nitrochromone | 10.67 mmol, 2.98 g | COC=1C=C2C(C=C(OC2=C(C1)[N+](=O)[O-])C(=O)OC)=O | C12H9NO7
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 1.0 g | [C].[Pd]
product | 8-amino-6-methoxy-2-methoxycarbonylchromone | 2.31 g, yield: 87% | NC=1C=C(C=C2C(C=C(OC12)C(=O)OC)=O)OC | C12H11NO5
